US06734180B1
N-benzyl-2-(5-methylthieno[2,3-d]pyrimidine-4-yl)amino-5-indan carboxamide
Using N-benzyl-2-amino-5-indan carboxamide hydrochloride (660 mg, 2.2 mmol), ethanol (19 ml), triethylamine (0.94 ml, 6.7 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (410 mg, 2.2 mmol), a similar procedure to b) in Example 19 was carried out. A solid obtained by purifying the product by silica gel chromatography (methylene chloride:ethanol=95:5) was washed with ether to obtain the title compound (580 mg, 1.4 mmol) having the following physical properties:

reactant | N-benzyl-2-amino-5-indan carboxamide hydrochloride | 2.2 mmol, 660 mg | Cl.C(C1=CC=CC=C1)NC(=O)C=1C=C2CC(CC2=CC1)N
reactant | triethylamine | 6.7 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 2.2 mmol, 410 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | ethanol | 19 ml | C(C)O | C2H6O
product | N-benzyl-2-(5-methylthieno[2,3-d]pyrimidine-4-yl)amino-5-indan carboxamide | 1.4 mmol, 580 mg | C(C1=CC=CC=C1)NC(=O)C=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C24H22N4OS
